US03987160
1-Benzyl-4-carbamoyl-5-formamido-1,2,3-triazole (40 g.; prepared as described by A. Albert, J.Chem.Soc., 1969 (C), 152) was dissolved in 2N sodium hydroxide solution (156 ml.), and treated with alternate successive portions of benzoyl chloride (total 24 ml.) and 2N aqueous sodium hydroxide solution (total 140 ml.) with vigorous agitation, and cooling with ice, over a period of 2 hours. The solution was then acidified to pH 4 with concentrated hydrochloric acid, again cooling with ice, and the precipitated solid was filtered off, dissolved in 2N sodium hydroxide solution (208 ml.) and the solution stirred at 0° C. while portions of benzoyl chloride (total 57 ml.) and 2N sodium hydroxide solution (total 331 ml.) were added alternately over 45 minutes. The resultant mixture was stirred for a further 60 minutes at 0° C. before being acidified to pH 4 with concentrated hydrochloric acid, the temperature being maintained at 0° C. The solid was filtered off and washed successively with water, diethyl ether and water. The solid product was dried, and recrystallised from ethanol to give 5-benzamido-1-benzyl-4-carbamoyl-1,2,3-triazole (23.1 g.), m.p. 191°-192° C.

reactant | 1-Benzyl-4-carbamoyl-5-formamido-1,2,3-triazole | C(C1=CC=CC=C1)N1N=NC(=C1NC=O)C(N)=O | C11H11N5O2
reactant | benzoyl chloride | 24 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2N, 156 ml | [OH-].[Na+]
solvent | sodium hydroxide | 2N, 140 ml | [OH-].[Na+]
product | 5-benzamido-1-benzyl-4-carbamoyl-1,2,3-triazole | 23.1 g | C(C1=CC=CC=C1)(=O)NC1=C(N=NN1CC1=CC=CC=C1)C(N)=O | C17H15N5O2
